US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-1,1,1-trifluoromethanesulfonamide hydrochloride
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1,1,1-trifluoromethanesulfonamide. MS obsd. (ESI+) [(M+H)+] 486, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.99-7.92 (m, 2 H), 7.85-7.80 (d, J=7.2 Hz, 1 H), 7.78-7.73 (d, J=2 Hz, 1 H), 7.72-7.65 (t, J=7.6 Hz, 1 H), 7.62-7.51 (m, 2 H), 7.13 (s, 1 H), 5.07 (s, 2 H), 4.60-4.40 (m, 2 H), 3.98-3.91 (t, J=2.8 Hz, 2 H), 2.39 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1,1,1-trifluoromethanesulfonamide | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-1,1,1-trifluoromethanesulfonamide hydrochloride | Cl.O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NS(=O)(=O)C(F)(F)F)C)=O | InChI=1S/C20H18F3N3O4S2.ClH/c1-13-6-7-16-15(10-13)17(25-32(29,30)20(21,22)23)11-19(24-16)26-8-9-31(27,28)18-5-3-2-4-14(18)12-26;/h2-7,10-11H,8-9,12H2,1H3,(H,24,25);1H
